US07960310B2
A suspension of 0.70 g (3.2 mmol) (4,5-Dihydro-thiazol-2-yl)-indan-1-yl-amine, 0.52 g (4.8 mmol) cyanogen bromide and 1.56 g (4.8 mmol) CsCO3 in 10 ml acetonitrile—was stirred at 20° C. for 16 hours. The suspension was filtered and the solvent evaporated. The crude product was purified by flash chromatography using EtOAc/n-hexane (1:5) as eluent to yield 0.50 g of 2-(Indan-1-ylimino)-thiazolidine-3-carbonitrile (white crystals, m.p. 90-91° C.). 1H-NMR (400 MHz, CDCl3): 2.0-2.15 (1H, m); 2.40-2.50 (1H, m); 2.85-2.95 (1H, m); 3.0-3.10 (1H, m); 3.35-3.45 (2H, m), 3.90-4.0 (2H, m), 4.65 (1H, t), 7.10-7.30 (4H, m).

reactant | (4,5-Dihydro-thiazol-2-yl)-indan-1-yl-amine | 3.2 mmol, 0.70 g | S1C(=NCC1)NC1CCC2=CC=CC=C12 | C12H14N2S
reactant | cyanogen bromide | 4.8 mmol, 0.52 g | N#CBr | CBrN
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-(Indan-1-ylimino)-thiazolidine-3-carbonitrile | 0.50 g | C1(CCC2=CC=CC=C12)N=C1SCCN1C#N | C13H13N3S
